US09212187B2
Synthesis of 6-[3-(1-Methoxy-isoquinolin-4-ylamino)-propoxy]-1-methyl-1H-quinolin-2-one
6-(3-Amino-propoxy)-1-methyl-1H-quinolin-2-one(232 mg), 4-bromo-1-methoxy-isoquinoline(286 mg), palladium acetate (II) (22 mg), xantphos (558 mg), and sodium t-butoxide(192 mg) were added to dioxane(10 ml). The mixture was heated at 80° C. for overnight under argon atmosphere. The reaction liquid was cooled to room temperature. Water was added to the reaction mixture, and followed by celite filtration. The filtrate was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate. The filtrate was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: hexane=2:1→1:0). The purified product was condensed under reduced pressure to give the title compound(99 mg) as a brown amorphous solid.

reactant | 6-(3-Amino-propoxy)-1-methyl-1H-quinolin-2-one | 232 mg | NCCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C13H16N2O2
reactant | 4-bromo-1-methoxy-isoquinoline | 286 mg | BrC1=CN=C(C2=CC=CC=C12)OC | C10H8BrNO
reactant | xantphos | 558 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium t-butoxide | 192 mg | CC(C)([O-])C.[Na+]
catalyst | palladium acetate | 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 6-[3-(1-Methoxy-isoquinolin-4-ylamino)-propoxy]-1-methyl-1H-quinolin-2-one | 99 mg | COC1=NC=C(C2=CC=CC=C12)NCCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C23H23N3O3
